US07713982B2
a) 8-chloro-3-(2-cyclopropylethyl)-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (1.5 g, 6.64 mmol), sodium carbonate (844 mg, 7.9 mmol) and 2-cyclopropylethyl methanesulfonate (1.19 g, 7.3 mmol) were stirred in dimethylformamide (25 ml, dry) for two days at 80° C. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was separated and washed with hydrochloric acid (2N), brine, dried (MgSO4) and then evaporated to dryness. The crude product was triturated with ether and the solid collected by filtration to afford the title compound as a white solid (0.96 g, 49%). m/z 295 [MH+].

reactant | 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 6.64 mmol, 1.5 g | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
reactant | sodium carbonate | 7.9 mmol, 844 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-cyclopropylethyl methanesulfonate | 7.3 mmol, 1.19 g | CS(=O)(=O)OCCC1CC1 | C6H12O3S
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-chloro-3-(2-cyclopropylethyl)-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.96 g, 49% | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCC1CC1 | C13H15ClN4O2
